* Extracted by KLayout with SG13G2 LVS runset on : 03/08/2026 14:09

.SUBCKT sg13g2_IOPadAnalog anode|cathode|core|pad|padres
+ anode|guard|iovss|minus cathode|iovdd iovdd|plus vss
M$1 anode|guard|iovss|minus \$5 anode|cathode|core|pad|padres \$1 sg13_hv_nmos
+ L=0.6u W=88u AS=40.7p AD=40.7p PS=110.9u PD=110.9u rfmode=0
M$21 cathode|iovdd \$17 anode|cathode|core|pad|padres cathode|iovdd
+ sg13_hv_pmos L=0.6u W=266.4u AS=123.21p AD=123.21p PS=316.72u PD=316.72u
+ rfmode=0
D$61 \$1 anode|cathode|core|pad|padres dantenna A=1.984p P=7.48u m=1
D$62 \$1 anode|cathode|core|pad|padres dantenna A=35.0028p P=58.08u m=2
D$64 anode|cathode|core|pad|padres iovdd|plus dpantenna A=3.1872p P=11.24u m=1
D$65 anode|cathode|core|pad|padres cathode|iovdd dpantenna A=35.0028p P=58.08u
+ m=2
R$67 anode|guard|iovss|minus \$5 \$1 rppd w=0.5u l=3.54u ps=0u b=0 m=1
R$68 cathode|iovdd \$17 cathode|iovdd rppd w=0.5u l=12.9u ps=0u b=0 m=1
R$69 anode|guard|iovss|minus \$1 ptap1 A=4580.0452p P=1715.26u
R$73 vss \$1 ptap1 A=23.85p P=159.6u
.ENDS sg13g2_IOPadAnalog
